US07704989B2
A solution of 60 mg of N-phenyl-6-vinylimidazo[1,2-a]pyridine-2-carboxamide in 15 ml of methanol is hydrogenated at 25° C. for 45 minutes under 1 bar of hydrogen in the presence of 24 mg of 10% palladium-on-charcoal. As the reaction is incomplete, the product is recycled under the same conditions. After filtering, the reaction mixture is concentrated to dryness under reduced pressure. The residue is taken up in 50 ml of ethyl acetate. The organic phase is washed with water, separated by settling, dried and concentrated to dryness under reduced pressure to give 60 mg of 6-ethyl-N-phenylimidazo[1,2-a]pyridine-2-carboxamide in the form of a white solid.

reactant | N-phenyl-6-vinylimidazo[1,2-a]pyridine-2-carboxamide | 60 mg | C1(=CC=CC=C1)NC(=O)C=1N=C2N(C=C(C=C2)C=C)C1 | C16H13N3O
reactant | hydrogen | [H][H] | H2
solvent | methanol | 15 ml | CO | CH4O
catalyst | palladium-on-charcoal | 24 mg | [Pd] | Pd
product | 6-ethyl-N-phenylimidazo[1,2-a]pyridine-2-carboxamide | 60 mg | C(C)C=1C=CC=2N(C1)C=C(N2)C(=O)NC2=CC=CC=C2 | C16H15N3O
